US04202892
(Adamant-1-ylmethyl)hydrazine hydrochloride
4.0 g (120 mmol) of anhydrous hydrazine and 2.3 g (12 mmol) of 1-chloromethyladamantane were introduced into a sealable tube under nitrogen atmosphere. The tube was sealed and heated at 150° for 16 hours. After cooling to room temperature the contents were suspended in methanol, treated with a solution 0.5 g of sodium hydroxide in 1.5 ml of water, and the volatiles removed in vacuo. The resulting solid was extracted with ether and the solution dried with magnesium sulfate and treated with hydrogen chloride to give 1 g of the title compound (38% yield).

reactant | hydrazine | 120 mmol, 4.0 g | NN | H4N2
reactant | 1-chloromethyladamantane | 12 mmol, 2.3 g | ClCC12CC3CC(CC(C1)C3)C2 | C11H17Cl
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | (Adamant-1-ylmethyl)hydrazine hydrochloride | 1 g, 38% yield | Cl.C12(CC3CC(CC(C1)C3)C2)CNN | InChI=1S/C11H20N2.ClH/c12-13-7-11-4-8-1-9(5-11)3-10(2-8)6-11;/h8-10,13H,1-7,12H2;1H
